US06890947B2
In analogy to the procedures described in examples 36a) and 36b), rac-2-ethoxy-3-(2-methyl-1H-indol-5-yl)-propionic acid ethyl ester (preparation 5) was reacted with 4-chloromethyl-2-(4-isopropyl-phenyl)-5-methyl-oxazole to give rac-2-ethoxy-3-{1-[2-(4-isopropyl-phenyl)-5-methyl-oxazol-4-ylmethyl]-2-methyl-1H-indol-5-yl}-propionic acid ethyl ester, which was subsequently saponified to yield the title compound as colorless oil.

reactant | rac-2-ethoxy-3-(2-methyl-1H-indol-5-yl)-propionic acid ethyl ester | C(C)OC(C(CC=1C=C2C=C(NC2=CC1)C)OCC)=O | C16H21NO3
reactant | 4-chloromethyl-2-(4-isopropyl-phenyl)-5-methyl-oxazole | ClCC=1N=C(OC1C)C1=CC=C(C=C1)C(C)C | C14H16ClNO
product | rac-2-ethoxy-3-{1-[2-(4-isopropyl-phenyl)-5-methyl-oxazol-4-ylmethyl]-2-methyl-1H-indol-5-yl}-propionic acid ethyl ester | C(C)OC(C(CC=1C=C2C=C(N(C2=CC1)CC=1N=C(OC1C)C1=CC=C(C=C1)C(C)C)C)OCC)=O | C30H36N2O4
